US07273877B2
A dispersion of 1,1,1,2,2,3,3,4,4-nonafluoro-4-iodobutane (3.50 9, 10.1 mmol), 2-fluoro-4-iodoaniline (2.00 g, 8.4 mmol) and copper bronze (1.93 g, 30.4 mmol) in DMSO (10 ml) was stirred at 120° C. for 15 h. Copper(I) iodide was removed by filtration through Celite®. Et2O (100 ml) was used to wash the Celite® plug. Water (100 ml) was then added to the filtrate and the mixture stirred at RT for 5 min. The organic layer was separated and washed 5× with water to remove DMSO, dried (Na2SO4) and concentrated. Flash chromatography on silica gel (10% EtOAc/Hexane) afforded 2-fluoro-4-(1,1,2,2,3,3,4,4,4-nonafluorobutyl) aniline (1.69 g, 61%). 1H NMR [300 MHz, CDCl3] δ 7.25-7.14 (m, 2H), 6.86-6.74 (m, 1H), 4.07 (br s, 1H). LCMS (ACPI−) 328 (100%).

reactant | 1,1,1,2,2,3,3,4,4-nonafluoro-4-iodobutane | 10.1 mmol | FC(C(C(C(I)(F)F)(F)F)(F)F)(F)F | C4F9I
reactant | 2-fluoro-4-iodoaniline | 8.4 mmol, 2.00 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
catalyst | copper bronze | 30.4 mmol, 1.93 g | [Cu] | Cu
product | 2-fluoro-4-(1,1,2,2,3,3,4,4,4-nonafluorobutyl) aniline | 1.69 g, 61% | FC1=C(N)C=CC(=C1)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C10H5F10N
